US04550107
11-[[3-(Diethylamino)-hexahydro-1H-azepin-1-yl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
The title compound is prepared analogously to Example 2 from 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-(diethylamino)-hexahydro-1H-azepine to give colorless crystals, mp. 222°-224° C. (n-propanol).

reactant | 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | 3-(diethylamino)-hexahydro-1H-azepine | C(C)N(C1CNCCCC1)CC | C10H22N2
solvent | n-propanol | C(CC)O | C3H8O
product | 11-[[3-(Diethylamino)-hexahydro-1H-azepin-1-yl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C)N(C1CN(CCCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | C24H31N5O2
